US08802674B2
[4-(5-Chloro-4-methylamino-pyrimidin-2-ylamino)-3-cyclopropyl-phenyl]-morpholin-4-yl-methanone
A mixture of [3-Bromo-4-(5-chloro-4-methylamino-pyrimidin-2-ylamino)-phenyl]-morpholin-4-yl-methanone (0.0500 g, 0.117 mmol), potassium acetate (0.0172 g, 0.176 mmol), sodium carbonate (0.0186 g, 0.176 mmol) and 1,1′-bis(diphenylphosphino)ferrocenepalladium (II) chloride (0.00478 g, 0.00585 mmol) were weighed into a microwave vial equipped with a stir bar. Acetonitrile (0.94 mL, 18 mmol) and degassed Water (0.3 mL, 20 mmol) were then added and the reaction mixture was degassed with nitrogen for 4 mins and then heated to 140° C. under microwave irradiation for 80 min. The mixture was then filtered through celite, eluting with ethyl acetate and concentrated in vacuo. Purification of the crude product was achieved by reverse phase HPLC.

reactant | [3-Bromo-4-(5-chloro-4-methylamino-pyrimidin-2-ylamino)-phenyl]-morpholin-4-yl-methanone | 0.117 mmol, 0.0500 g | BrC=1C=C(C=CC1NC1=NC=C(C(=N1)NC)Cl)C(=O)N1CCOCC1 | C16H17BrClN5O2
reactant | potassium acetate | 0.176 mmol, 0.0172 g | C(C)(=O)[O-].[K+]
reactant | sodium carbonate | 0.176 mmol, 0.0186 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Acetonitrile | 18 mmol, 0.94 mL | C(C)#N | C2H3N
reactant | Water | 20 mmol, 0.3 mL | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocenepalladium (II) chloride | 0.00585 mmol, 0.00478 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | [4-(5-Chloro-4-methylamino-pyrimidin-2-ylamino)-3-cyclopropyl-phenyl]-morpholin-4-yl-methanone | ClC=1C(=NC(=NC1)NC1=C(C=C(C=C1)C(=O)N1CCOCC1)C1CC1)NC | C19H22ClN5O2
